### ISSUE TITLE
Workaround for unsupported equality between type and constructor indices

### ISSUE THREAD

**Issue by evhub** [leanprover/lean3#1969]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

I have been running into "unsupported equality between type and constructor indices" a lot recently, and it's proved very hard for me to work around. I've included some examples of where this is showing up below, and I'm hoping somebody here has a workaround. If not, it would be nice if a workaround for this could be added.

### Steps to Reproduce

Some simple reproductions:

```lean
theorem option.inj {T T': Sort _} (hopt: option T = option T'):
    T = T' := begin
        cases hopt,
    end
```

```lean
inductive generalized_le: Π {T: Sort _}, T → T → Prop
| eq {T: Sort _} (x: T): generalized_le x x
| lt {T: Sort _} (y: option T): generalized_le none y

theorem generalized_le.elim {T: Sort _} {x y: option T} (hle: generalized_le x y):
    x = none ∨ x = y := begin
        cases hle,
    end
```

### Versions

Windows 10 with Lean (version 3.4.1, commit 17fe3decaf8a, Release).

**Comment by leodemoura** [comment]
This is not a bug. Type former injectivity does not hold in Lean. For example, `option T = option T' -> T = T'` is not a theorem in Lean.  Note that, some systems that support (or supported) this features have proven to be unsound (e.g., Idris and F*).

BTW, the error message shows exactly where the `cases` tactic got stuck. In the second example, we get
```
cases tactic failed, unsupported equality between type and constructor indices
(only equalities between constructors and/or variables are supported, try cases on the indices):
option T = option hle_T

state:
T : Type u_1,
x y : option T,
hle : generalized_le x y,
hle_T : Type u_1,
hle_y : option hle_T
⊢ option T = option hle_T → x == none → y == hle_y → hle == _ → x = none ∨ x = y
```
If Lean had type informer injectivity, it would be able to reduce `option T = option hle_T` into `T = hle_T` and continue the tactic execution.

**Comment by fpvandoorn** [comment]
I think I can answer this (but I'm sniped by Leo).

The problem here is not Lean, but the underlying type theory of Lean. In this type theory, the equality between types is under-specified. Given two concrete types, you probably can neither prove that they are equal, nor that they are unequal. For example, you cannot prove `¬ (ℕ = ℤ)` in Lean (I believe). In the same way, the implication `option T = option T' → T = T'` is not provable (nor disprovable). Some properties are provable, like `T = T' → option T = option T'`, which is just an application of `congr_arg`.

To work around this, it is best to never use equality between types, use a bijection between two types instead. In your second example, the following code is probably what you want: 
```lean
inductive generalized_le {T: Sort _}: option T → option T → Prop
| eq (x: option T): generalized_le x x
| lt (y: option T): generalized_le none y

theorem generalized_le.elim {T: Sort _} {x y: option T} (hle: generalized_le x y):
    x = none ∨ x = y := begin
        cases hle, right, refl, left, refl
    end
```
I made the argument `{T: Sort _}` a parameter instead of an index (you generally want to make as much arguments to an inductive type parameters instead of indices, if you have that choice).

**Comment by evhub** [comment]
@fpvandoorn For my use case, it's very important that `generalized_le` be able to support types which are _not_ option types (that's what makes it generalized). Thus, I can't use the inductive data type you provide.

**Comment by evhub** [comment]
@leodemoura @fpvandoorn If I can neither prove nor disprove that this works, is there a general-purpose axiom I can assume that will specify that I want type equality to work that way?

**Comment by fpvandoorn** [comment]
I don't know of such a general-purpose axiom which is consistent with Lean. Probably the best thing is to just add the axiom for all type formers you care about, even if that is not elegant.

There are different approaches. One is observational type theory (#654), but that cannot be stated as an axiom, but would instead require a change in the type theory. A second approach is homotopy type theory with the [univalence axiom](https://ncatlab.org/nlab/show/univalence+axiom), but that axiom is inconsistent with `eq` living in `Prop` (it has to live in `Type`, meaning that there can be multiple (unequal) proofs of an equality). Also, the univalence axiom can proof injectivity of `option`, but doesn't give injectivity of many other type constructors. (For example `sum A ℕ = sum B ℕ → A = B` is not provable. In fact, `sum empty ℕ = sum unit ℕ` is provable from univalence.)
